US07759337B2
Step B: (R)-N-Benzyl-2-chloro-N-(1-hydroxypropan-2-yl)acetamide
(R)-2-(Benzylamino)propan-1-ol (16.58 g, 100 mmol) was dissolved in dichloromethane (125 mL) and TEA (18.1 mL, 130 mmol) before being cooled to −10° C. in a methanol/ice bath. Chloroacetic acid chloride (8.78 mL, 110 mmol) was added dropwise and the mixture was stirred for 1.5 h at −10° C. A small amount of water was then added to remove the amine. The reaction mixture was poured into a separatory funnel, washed 2×50 mL with dichloromethane, separated, organic layers dried over sodium sulfate, concentrated in vacuo, and purified by flash chromatography to give the title compound.

reactant | (R)-2-(Benzylamino)propan-1-ol | 100 mmol, 16.58 g | C(C1=CC=CC=C1)N[C@@H](CO)C | C10H15NO
reactant | Chloroacetic acid chloride | 110 mmol, 8.78 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | water | O | H2O
solvent | dichloromethane | 125 mL | ClCCl | CH2Cl2
product | (R)-N-Benzyl-2-chloro-N-(1-hydroxypropan-2-yl)acetamide | C(C1=CC=CC=C1)N(C(CCl)=O)[C@@H](CO)C | C12H16ClNO2
